US09388161B2
Di-tert-butyl dicarbonate (0.02 mL, 0.088 mmol) was added to a 0° C. solution containing a mixture of (S)-tert-butyl 4-(4-(1-acetyl-2-methyl-5-(phenylamino)-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate and tert-butyl (S)-4-(4-(1-acetyl-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (31 mg, 0.059 mmol) and DMAP (7.2 mg, 0.059 mmol) in THF (1.0 mL). The reaction mixture was warmed to room temperature and stirred for 3 hours. The reaction solution was concentrated in vacuo and the crude product was purified directly via column chromatography on silica gel (Biotage 25 g column, gradient elution with 40-50% ethyl acetate in hexanes) to afford tert-butyl (S)-4-(4-(1-acetyl-5-((tert-butoxycarbonyl)(phenyl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (29.5 mg, 80%) as a white solid. MS (ESI, pos. ion) m/z 630 [M+H]+.

reactant | Di-tert-butyl dicarbonate | 0.088 mmol, 0.02 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (S)-tert-butyl 4-(4-(1-acetyl-2-methyl-5-(phenylamino)-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)NC1=CC=CC=C1)C | C31H39N5O3
reactant | tert-butyl (S)-4-(4-(1-acetyl-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.059 mmol, 31 mg | C(C)(=O)N1[C@H](CCC2=CC(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C25H34N4O3
catalyst | DMAP | 0.059 mmol, 7.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | tert-butyl (S)-4-(4-(1-acetyl-5-((tert-butoxycarbonyl)(phenyl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 29.5 mg, 80% | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)N(C1=CC=CC=C1)C(=O)OC(C)(C)C)C | C36H47N5O5
